US04243408
To a stirred solution of 19.9 g (0.103 mol) alpha-(2,6-dimethylphenylamino)acethydrazide in 350 ml dichloromethane was added quickly 11.3 g (0.103 mol) acetic anhydride. A mild exotherm ensued. After being stirred at about 25° C. for about 16 hours, the reaction mixture was filtered to give 8.9 g of 1-(2,6-dimethylphenylaminoacetyl)-2-acetyl hydrazine, m.p. 148°-150° C.

reactant | alpha-(2,6-dimethylphenylamino)acethydrazide | 0.103 mol, 19.9 g | CC1=C(C(=CC=C1)C)NCC(=O)NN | C10H15N3O
reactant | acetic anhydride | 0.103 mol, 11.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 1-(2,6-dimethylphenylaminoacetyl)-2-acetyl hydrazine | 8.9 g | CC(C(=O)NNC(C)=O)NC1=CC=CC=C1C | C12H17N3O2
